US07030267B2
To a solution of 2-cyano-3-propyl-hex-2-enoic acid benzyl ester (0.91 g, 3.35 mmol) in 50 mL acetonitrile was added nitromethane (0.91 mL, 16.77 mmol), followed by DBU (0.50 mL, 3.35 mmol) resulting in an orange solution. The reaction was stirred at room temperature for 16 hours, then partitioned between Et2O and 1N HCl (aq). The phases were separated, and the organic phase washed with brine, dried (MgSO4), and concentrated. Flash chromatography of the residue (5→10% EtOAc/hexanes) afforded 0.71 g (81%) of 1-cyano-2,2-dipropyl-cyclopropanecarboxylic acid benzyl ester as a pale yellow oil. 1H NMR (CDCl3) δ 7.35 (m, 5H), 5.21 (dd, J=18.3, 12.4 Hz, 2H), 1.79 (d, J=5.1 Hz, 1H), 1.74 (m, 1H), 1.52 (m, 3H), 1.43 (d, J=5.1 Hz, 1H), 1.36 (m, 3H), 1.04 (m, 1H), 0.95 (t, J=7.1 Hz, 3H), 0.73 (t, J=7.1 Hz, 3H). 13C NMR δ 166.40, 135.22, 128.81, 128.69, 128.48, 118.60, 68.23, 41.26, 36.45, 30.27, 29.76, 24.91, 19.74, 19.65, 14.22, 14.10. IR (neat) 2240, 1734 cm−1. Anal. Calcd for C18H23NO2: C, 75.76; H, 8.12; N, 4.91. Found: C, 75.38; H, 8.02; N, 4.97.

reactant | 2-cyano-3-propyl-hex-2-enoic acid benzyl ester | 3.35 mmol, 0.91 g | C(C1=CC=CC=C1)OC(C(=C(CCC)CCC)C#N)=O | C17H21NO2
reactant | nitromethane | 16.77 mmol, 0.91 mL | [N+](=O)([O-])C | CH3NO2
reactant | DBU | 3.35 mmol, 0.50 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-cyano-2,2-dipropyl-cyclopropanecarboxylic acid benzyl ester | 0.71 g, 81% | C(C1=CC=CC=C1)OC(=O)C1(C(C1)(CCC)CCC)C#N | C18H23NO2
